US08557832B2
6-[(6-chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]-2-methylbenzo[h]quinazolin-4(3H)-one
Using the procedures described in Example 2 for the preparation of 6-[(6-chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one, substituting N,N-dimethylacetamide dimethylacetal for N,N-dimethylformamide dimethylacetal, the title compound was obtained that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 433.9 for [M+H]+: 1H NMR (400 MHz, d6-DMSO) δ 9.05-9.03 (m, 1H), 8.28 (s, 1H), 8.06 (d, J=7.7, 1H), 7.92 (s, 1H), 7.75-7.63 (m, 3H), 7.34 (d, J=8.4 Hz, 1H), 4.80-4.74 (m, 1H), 4.53 (s, 2H), 4.15-4.09 (m, 1H), 2.87 (s, 3H), 2.81-2.70 (m, 1H), 2.19-2.12 (m, 1H), 1.90-1.80 (m, 3H), 1.53-1.35 (m, 3H).

reactant | 6-[(6-chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](CCCC2)O)=O | C24H22ClN3O2
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 6-[(6-chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]-2-methylbenzo[h]quinazolin-4(3H)-one | ClC1=CC=C(C=N1)CC=1C=C2C(N(C(=NC2=C2C1C=CC=C2)C)[C@@H]2[C@H](CCCC2)O)=O | C25H24ClN3O2
